***Via model***
.SUBCKT Via74::MIPI_DSI0_DATA2_N
+       Node2494::MIPI_DSI0_DATA2_N Node2425::MIPI_DSI0_DATA2_N
+       Node3029::MIPI_DSI0_DATA2_P Node2955::MIPI_DSI0_DATA2_P
+       ngnd

Cu_Node2494::MIPI_DSI0_DATA2_N Node2494::MIPI_DSI0_DATA2_N ngnd 1.39627e-13
Cd_Node2425::MIPI_DSI0_DATA2_N Node2425::MIPI_DSI0_DATA2_N ngnd 1.77079e-13
Cu_Node3029::MIPI_DSI0_DATA2_P Node3029::MIPI_DSI0_DATA2_P ngnd 1.39627e-13
Cd_Node2955::MIPI_DSI0_DATA2_P Node2955::MIPI_DSI0_DATA2_P ngnd 1.77079e-13

LNode2494::MIPI_DSI0_DATA2_N Node2494::MIPI_DSI0_DATA2_N Node2425::MIPI_DSI0_DATA2_Ntmp  6.20105e-10
VRLNode2494::MIPI_DSI0_DATA2_N Node2425::MIPI_DSI0_DATA2_Ntmp Node2425::MIPI_DSI0_DATA2_N 0 r_0= 0.000353029
LNode3029::MIPI_DSI0_DATA2_P Node3029::MIPI_DSI0_DATA2_P Node2955::MIPI_DSI0_DATA2_Ptmp  6.20105e-10
VRLNode3029::MIPI_DSI0_DATA2_P Node2955::MIPI_DSI0_DATA2_Ptmp Node2955::MIPI_DSI0_DATA2_P 0 r_0= 0.000353029
KNode3029::MIPI_DSI0_DATA2_PNode2494::MIPI_DSI0_DATA2_N LNode3029::MIPI_DSI0_DATA2_P LNode2494::MIPI_DSI0_DATA2_N 0.313855
.ENDS 

.SUBCKT Via28::MIPI_DSI1_DATA1_N
+       Node1780::MIPI_DSI1_DATA1_N Node1781::MIPI_DSI1_DATA1_N
+       Node2014::MIPI_DSI1_DATA1_P Node2015::MIPI_DSI1_DATA1_P
+       ngnd

Cu_Node1780::MIPI_DSI1_DATA1_N Node1780::MIPI_DSI1_DATA1_N ngnd 1.39627e-13
Cd_Node1781::MIPI_DSI1_DATA1_N Node1781::MIPI_DSI1_DATA1_N ngnd 1.77079e-13
Cu_Node2014::MIPI_DSI1_DATA1_P Node2014::MIPI_DSI1_DATA1_P ngnd 1.39627e-13
Cd_Node2015::MIPI_DSI1_DATA1_P Node2015::MIPI_DSI1_DATA1_P ngnd 1.77079e-13

LNode1780::MIPI_DSI1_DATA1_N Node1780::MIPI_DSI1_DATA1_N Node1781::MIPI_DSI1_DATA1_Ntmp  6.20105e-10
VRLNode1780::MIPI_DSI1_DATA1_N Node1781::MIPI_DSI1_DATA1_Ntmp Node1781::MIPI_DSI1_DATA1_N 0 r_0= 0.000353029
LNode2014::MIPI_DSI1_DATA1_P Node2014::MIPI_DSI1_DATA1_P Node2015::MIPI_DSI1_DATA1_Ptmp  6.20105e-10
VRLNode2014::MIPI_DSI1_DATA1_P Node2015::MIPI_DSI1_DATA1_Ptmp Node2015::MIPI_DSI1_DATA1_P 0 r_0= 0.000353029
KNode2014::MIPI_DSI1_DATA1_PNode1780::MIPI_DSI1_DATA1_N LNode2014::MIPI_DSI1_DATA1_P LNode1780::MIPI_DSI1_DATA1_N 0.31622
.ENDS 

.SUBCKT Via26::MIPI_DSI1_DATA2_N
+       Node1321::MIPI_DSI1_DATA2_N Node1322::MIPI_DSI1_DATA2_N
+       Node1541::MIPI_DSI1_DATA2_P Node1542::MIPI_DSI1_DATA2_P
+       ngnd

Cu_Node1321::MIPI_DSI1_DATA2_N Node1321::MIPI_DSI1_DATA2_N ngnd 2.32517e-13
Cu_Node1541::MIPI_DSI1_DATA2_P Node1541::MIPI_DSI1_DATA2_P ngnd 2.32517e-13

LNode1321::MIPI_DSI1_DATA2_N Node1321::MIPI_DSI1_DATA2_N Node1322::MIPI_DSI1_DATA2_Ntmp  6.20105e-10
VRLNode1321::MIPI_DSI1_DATA2_N Node1322::MIPI_DSI1_DATA2_Ntmp Node1322::MIPI_DSI1_DATA2_N 0 r_0= 0.000353029
LNode1541::MIPI_DSI1_DATA2_P Node1541::MIPI_DSI1_DATA2_P Node1542::MIPI_DSI1_DATA2_Ptmp  6.20105e-10
VRLNode1541::MIPI_DSI1_DATA2_P Node1542::MIPI_DSI1_DATA2_Ptmp Node1542::MIPI_DSI1_DATA2_P 0 r_0= 0.000353029
KNode1541::MIPI_DSI1_DATA2_PNode1321::MIPI_DSI1_DATA2_N LNode1541::MIPI_DSI1_DATA2_P LNode1321::MIPI_DSI1_DATA2_N 0.303042
.ENDS 

.SUBCKT Via24::MIPI_DSI1_DATA3_N
+       Node1161::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_N
+       Node1306::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_P
+       ngnd

Cu_Node1161::MIPI_DSI1_DATA3_N Node1161::MIPI_DSI1_DATA3_N ngnd 1.39627e-13
Cd_Node1162::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_N ngnd 1.77079e-13
Cu_Node1306::MIPI_DSI1_DATA3_P Node1306::MIPI_DSI1_DATA3_P ngnd 1.39627e-13
Cd_Node1208::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_P ngnd 1.77079e-13

LNode1161::MIPI_DSI1_DATA3_N Node1161::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_Ntmp  6.20105e-10
VRLNode1161::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_Ntmp Node1162::MIPI_DSI1_DATA3_N 0 r_0= 0.000353029
LNode1306::MIPI_DSI1_DATA3_P Node1306::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_Ptmp  6.20105e-10
VRLNode1306::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_Ptmp Node1208::MIPI_DSI1_DATA3_P 0 r_0= 0.000353029
KNode1306::MIPI_DSI1_DATA3_PNode1161::MIPI_DSI1_DATA3_N LNode1306::MIPI_DSI1_DATA3_P LNode1161::MIPI_DSI1_DATA3_N 0.299049
.ENDS 

.SUBCKT Via22::MIPI_DSI1_CLK_N
+       Node883::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_N
+       Node992::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_P
+       ngnd

Cu_Node883::MIPI_DSI1_CLK_N Node883::MIPI_DSI1_CLK_N ngnd 1.39627e-13
Cd_Node991::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_N ngnd 1.77079e-13
Cu_Node992::MIPI_DSI1_CLK_P Node992::MIPI_DSI1_CLK_P ngnd 1.39627e-13
Cd_Node1130::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_P ngnd 1.77079e-13

LNode883::MIPI_DSI1_CLK_N Node883::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_Ntmp  6.20105e-10
VRLNode883::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_Ntmp Node991::MIPI_DSI1_CLK_N 0 r_0= 0.000353029
LNode992::MIPI_DSI1_CLK_P Node992::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_Ptmp  6.20105e-10
VRLNode992::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_Ptmp Node1130::MIPI_DSI1_CLK_P 0 r_0= 0.000353029
KNode992::MIPI_DSI1_CLK_PNode883::MIPI_DSI1_CLK_N LNode992::MIPI_DSI1_CLK_P LNode883::MIPI_DSI1_CLK_N 0.30018
.ENDS 

