***Via model***
.SUBCKT Via432::N2739972
+       Node4257::N2739972 Node4784::N2739972
+       ngnd

Cu_Node4257::N2739972 Node4257::N2739972 ngnd 1.84684e-13
Cd_Node4784::N2739972 Node4784::N2739972 ngnd 2.22402e-13

LNode4257::N2739972 Node4257::N2739972 Via432::N2739972_PatchSignal#GNDtmp  1.3358e-11
VRLNode4257::N2739972 Via432::N2739972_PatchSignal#GNDtmp Via432::N2739972_PatchSignal#GND 0 r_0= 2.52678e-05
LVia432::N2739972_PatchSignal#GND Via432::N2739972_PatchSignal#GND Via432::N2739972_PatchSignal#PWOERtmp  6.58812e-10
VRLVia432::N2739972_PatchSignal#GND Via432::N2739972_PatchSignal#PWOERtmp Via432::N2739972_PatchSignal#PWOER 0 r_0= 0.000302494
LVia432::N2739972_PatchSignal#PWOER Via432::N2739972_PatchSignal#PWOER Node4784::N2739972tmp  1.3358e-11
VRLVia432::N2739972_PatchSignal#PWOER Node4784::N2739972tmp Node4784::N2739972 0 r_0= 2.52678e-05
.ENDS 

.SUBCKT Via26::MIPI_DSI1_DATA2_N
+       Node1321::MIPI_DSI1_DATA2_N Node1322::MIPI_DSI1_DATA2_N
+       Node1541::MIPI_DSI1_DATA2_P Node1542::MIPI_DSI1_DATA2_P
+       ngnd

Cu_Node1321::MIPI_DSI1_DATA2_N Node1321::MIPI_DSI1_DATA2_N ngnd 2.32517e-13
Cu_Node1541::MIPI_DSI1_DATA2_P Node1541::MIPI_DSI1_DATA2_P ngnd 2.32517e-13

LNode1321::MIPI_DSI1_DATA2_N Node1321::MIPI_DSI1_DATA2_N Node1322::MIPI_DSI1_DATA2_Ntmp  6.20105e-10
VRLNode1321::MIPI_DSI1_DATA2_N Node1322::MIPI_DSI1_DATA2_Ntmp Node1322::MIPI_DSI1_DATA2_N 0 r_0= 0.000353029
LNode1541::MIPI_DSI1_DATA2_P Node1541::MIPI_DSI1_DATA2_P Node1542::MIPI_DSI1_DATA2_Ptmp  6.20105e-10
VRLNode1541::MIPI_DSI1_DATA2_P Node1542::MIPI_DSI1_DATA2_Ptmp Node1542::MIPI_DSI1_DATA2_P 0 r_0= 0.000353029
KNode1541::MIPI_DSI1_DATA2_PNode1321::MIPI_DSI1_DATA2_N LNode1541::MIPI_DSI1_DATA2_P LNode1321::MIPI_DSI1_DATA2_N 0.303042
.ENDS 

.SUBCKT Via24::MIPI_DSI1_DATA3_N
+       Node1161::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_N
+       Node1306::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_P
+       ngnd

Cu_Node1161::MIPI_DSI1_DATA3_N Node1161::MIPI_DSI1_DATA3_N ngnd 1.39629e-13
Cd_Node1162::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_N ngnd 1.77080e-13
Cu_Node1306::MIPI_DSI1_DATA3_P Node1306::MIPI_DSI1_DATA3_P ngnd 1.39629e-13
Cd_Node1208::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_P ngnd 1.77080e-13

LNode1161::MIPI_DSI1_DATA3_N Node1161::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_Ntmp  6.20105e-10
VRLNode1161::MIPI_DSI1_DATA3_N Node1162::MIPI_DSI1_DATA3_Ntmp Node1162::MIPI_DSI1_DATA3_N 0 r_0= 0.000353029
LNode1306::MIPI_DSI1_DATA3_P Node1306::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_Ptmp  6.20105e-10
VRLNode1306::MIPI_DSI1_DATA3_P Node1208::MIPI_DSI1_DATA3_Ptmp Node1208::MIPI_DSI1_DATA3_P 0 r_0= 0.000353029
KNode1306::MIPI_DSI1_DATA3_PNode1161::MIPI_DSI1_DATA3_N LNode1306::MIPI_DSI1_DATA3_P LNode1161::MIPI_DSI1_DATA3_N 0.299049
.ENDS 

.SUBCKT Via22::MIPI_DSI1_CLK_N
+       Node883::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_N
+       Node992::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_P
+       ngnd

Cu_Node883::MIPI_DSI1_CLK_N Node883::MIPI_DSI1_CLK_N ngnd 1.39629e-13
Cd_Node991::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_N ngnd 1.77080e-13
Cu_Node992::MIPI_DSI1_CLK_P Node992::MIPI_DSI1_CLK_P ngnd 1.39629e-13
Cd_Node1130::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_P ngnd 1.77080e-13

LNode883::MIPI_DSI1_CLK_N Node883::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_Ntmp  6.20105e-10
VRLNode883::MIPI_DSI1_CLK_N Node991::MIPI_DSI1_CLK_Ntmp Node991::MIPI_DSI1_CLK_N 0 r_0= 0.000353029
LNode992::MIPI_DSI1_CLK_P Node992::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_Ptmp  6.20105e-10
VRLNode992::MIPI_DSI1_CLK_P Node1130::MIPI_DSI1_CLK_Ptmp Node1130::MIPI_DSI1_CLK_P 0 r_0= 0.000353029
KNode992::MIPI_DSI1_CLK_PNode883::MIPI_DSI1_CLK_N LNode992::MIPI_DSI1_CLK_P LNode883::MIPI_DSI1_CLK_N 0.30018
.ENDS 

