***Via model***
.SUBCKT Via75::MIPI_DSI0_DATA1_N
+       Node2530::MIPI_DSI0_DATA1_N Node2529::MIPI_DSI0_DATA1_N
+       Node3082::MIPI_DSI0_DATA1_P Node3081::MIPI_DSI0_DATA1_P
+       ngnd

Cu_Node2530::MIPI_DSI0_DATA1_N Node2530::MIPI_DSI0_DATA1_N ngnd 1.39628e-13
Cd_Node2529::MIPI_DSI0_DATA1_N Node2529::MIPI_DSI0_DATA1_N ngnd 1.77079e-13
Cu_Node3082::MIPI_DSI0_DATA1_P Node3082::MIPI_DSI0_DATA1_P ngnd 1.39628e-13
Cd_Node3081::MIPI_DSI0_DATA1_P Node3081::MIPI_DSI0_DATA1_P ngnd 1.77079e-13

LNode2530::MIPI_DSI0_DATA1_N Node2530::MIPI_DSI0_DATA1_N Node2529::MIPI_DSI0_DATA1_Ntmp  6.20105e-10
VRLNode2530::MIPI_DSI0_DATA1_N Node2529::MIPI_DSI0_DATA1_Ntmp Node2529::MIPI_DSI0_DATA1_N 0 r_0= 0.000353029
LNode3082::MIPI_DSI0_DATA1_P Node3082::MIPI_DSI0_DATA1_P Node3081::MIPI_DSI0_DATA1_Ptmp  6.20105e-10
VRLNode3082::MIPI_DSI0_DATA1_P Node3081::MIPI_DSI0_DATA1_Ptmp Node3081::MIPI_DSI0_DATA1_P 0 r_0= 0.000353029
KNode3082::MIPI_DSI0_DATA1_PNode2530::MIPI_DSI0_DATA1_N LNode3082::MIPI_DSI0_DATA1_P LNode2530::MIPI_DSI0_DATA1_N 0.299072
.ENDS 

.SUBCKT Via72::MIPI_DSI0_CLK_N
+       Node2342::MIPI_DSI0_CLK_N Node2341::MIPI_DSI0_CLK_N
+       Node2702::MIPI_DSI0_CLK_P Node2845::MIPI_DSI0_CLK_P
+       ngnd

Cu_Node2342::MIPI_DSI0_CLK_N Node2342::MIPI_DSI0_CLK_N ngnd 1.39628e-13
Cd_Node2341::MIPI_DSI0_CLK_N Node2341::MIPI_DSI0_CLK_N ngnd 1.77079e-13
Cu_Node2702::MIPI_DSI0_CLK_P Node2702::MIPI_DSI0_CLK_P ngnd 1.39628e-13
Cd_Node2845::MIPI_DSI0_CLK_P Node2845::MIPI_DSI0_CLK_P ngnd 1.77079e-13

LNode2342::MIPI_DSI0_CLK_N Node2342::MIPI_DSI0_CLK_N Node2341::MIPI_DSI0_CLK_Ntmp  6.20105e-10
VRLNode2342::MIPI_DSI0_CLK_N Node2341::MIPI_DSI0_CLK_Ntmp Node2341::MIPI_DSI0_CLK_N 0 r_0= 0.000353029
LNode2702::MIPI_DSI0_CLK_P Node2702::MIPI_DSI0_CLK_P Node2845::MIPI_DSI0_CLK_Ptmp  6.20105e-10
VRLNode2702::MIPI_DSI0_CLK_P Node2845::MIPI_DSI0_CLK_Ptmp Node2845::MIPI_DSI0_CLK_P 0 r_0= 0.000353029
KNode2702::MIPI_DSI0_CLK_PNode2342::MIPI_DSI0_CLK_N LNode2702::MIPI_DSI0_CLK_P LNode2342::MIPI_DSI0_CLK_N 0.313855
.ENDS 

.SUBCKT Via76::MIPI_DSI0_DATA0_N
+       Node2641::MIPI_DSI0_DATA0_N Node2701::MIPI_DSI0_DATA0_N
+       Node3500::MIPI_DSI0_DATA0_P Node3499::MIPI_DSI0_DATA0_P
+       ngnd

Cu_Node2641::MIPI_DSI0_DATA0_N Node2641::MIPI_DSI0_DATA0_N ngnd 1.39628e-13
Cd_Node2701::MIPI_DSI0_DATA0_N Node2701::MIPI_DSI0_DATA0_N ngnd 1.77079e-13
Cu_Node3500::MIPI_DSI0_DATA0_P Node3500::MIPI_DSI0_DATA0_P ngnd 1.39628e-13
Cd_Node3499::MIPI_DSI0_DATA0_P Node3499::MIPI_DSI0_DATA0_P ngnd 1.77079e-13

LNode3500::MIPI_DSI0_DATA0_P Node3500::MIPI_DSI0_DATA0_P Node3499::MIPI_DSI0_DATA0_Ptmp  6.20105e-10
VRLNode3500::MIPI_DSI0_DATA0_P Node3499::MIPI_DSI0_DATA0_Ptmp Node3499::MIPI_DSI0_DATA0_P 0 r_0= 0.000353029
LNode2641::MIPI_DSI0_DATA0_N Node2641::MIPI_DSI0_DATA0_N Node2701::MIPI_DSI0_DATA0_Ntmp  6.20105e-10
VRLNode2641::MIPI_DSI0_DATA0_N Node2701::MIPI_DSI0_DATA0_Ntmp Node2701::MIPI_DSI0_DATA0_N 0 r_0= 0.000353029
KNode2641::MIPI_DSI0_DATA0_NNode3500::MIPI_DSI0_DATA0_P LNode2641::MIPI_DSI0_DATA0_N LNode3500::MIPI_DSI0_DATA0_P 0.302236
.ENDS 

